US07534763B2
A. (S)-tert-Butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-methylphenyl)pyridin-3-yl)propanoate
To a stirred slurry of 1.75 g (3.35 mmol) of (S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromo-pyridin-3-yl)propanoate and 913 mg (6.70 mmol, 2 eq.) of 2-methylphenylboronic acid in 50 mL of 1:1 isopropanol/toluene was added 25.0 mL of 2 M aqueous sodium carbonate solution. The reaction mixture was purged twice with argon and evacuated and then 124 mg (0.167 mmol, 0.05 equivalents) of bis(tricyclohexylphosphine)palladium (II) chloride was added and the mixture again purged with argon and evacuated.

reactant | (S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromo-pyridin-3-yl)propanoate | 3.35 mmol, 1.75 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)Br | C27H27BrN2O4
reactant | 2-methylphenylboronic acid | 6.70 mmol, 913 mg, 2 eq. | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 2 M, 25.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol toluene | 50 mL | C(C)(C)O.C1(=CC=CC=C1)C
product | (S)-tert-Butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-methylphenyl)pyridin-3-yl)propanoate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)C1=C(C=CC=C1)C | C34H34N2O4
